US04992449
Cis-7-[(2-Aminocyclopentyl)amino]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
The procedure of Example 1 was followed using 0.6 g of 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinoline-carboxylic acid and 1.0 g of cis-1,2-cyclopentanediamine in 4 ml of pyridine, giving 0.5 g of the desired product, m.p. 233°-235° C.

reactant | 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinoline-carboxylic acid | 0.6 g | C(C)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C12H9F2NO3
reactant | cis-1,2-cyclopentanediamine | 1.0 g | [C@@H]1([C@H](CCC1)N)N | C5H12N2
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | Cis-7-[(2-Aminocyclopentyl)amino]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.5 g | N[C@@H]1[C@@H](CCC1)NC1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C17H20FN3O3
